US06348474B1
5-Carboxy-2-methyl-3-(4-phenylbenzyl)benzo[b]furan
5-(Methoxycarbonyl)-2-methyl-3-(4-phenylbenzyl)benzo[b]furan (1.31 g) was refluxed for 1 hr in a mixed solution of a 10% aqueous solution (10 ml) of sodium hydroxide, methanol (10 ml) and tetrahydrofuran (10 ml). The reaction mixture was concentrated and concentrated hydrochloric acid was added to acidify the solution. The precipitated solid was collected by filtration, washed with water and diisopropyl ether and dried to give the objective compound (0.68 g).

reactant | 5-(Methoxycarbonyl)-2-methyl-3-(4-phenylbenzyl)benzo[b]furan | 1.31 g | COC(=O)C1=CC2=C(OC(=C2CC2=CC=C(C=C2)C2=CC=CC=C2)C)C=C1 | C24H20O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Carboxy-2-methyl-3-(4-phenylbenzyl)benzo[b]furan | 0.68 g | C(=O)(O)C1=CC2=C(OC(=C2CC2=CC=C(C=C2)C2=CC=CC=C2)C)C=C1 | C23H18O3
